US05451607
To a solution of ethyl 4-chlorosalicylate (9.45 g) and potassium carbonate (10.3 g) in N,N-dimethylformamide (100 ml) was added methyl 2-chloropropionate (6.9 g), followed by stirring overnight at room temperature. The reaction mixture was poured into water (200 ml) and extracted with ether (200 ml×2). The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was subjected to chromatography on silica gel to give ethyl 4-chloro-2-(1(methoxycarbonyl)ethoxy)benzoate (yield, 8.4 g).

reactant | ethyl 4-chlorosalicylate | 9.45 g | ClC=1C=C(C(C(=O)OCC)=CC1)O | C9H9ClO3
reactant | potassium carbonate | 10.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-chloropropionate | 6.9 g | ClC(C(=O)OC)C | C4H7ClO2
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 4-chloro-2-(1(methoxycarbonyl)ethoxy)benzoate | 8.4 g | ClC1=CC(=C(C(=O)OCC)C=C1)OC(C)C(=O)OC | C13H15ClO5
